US04229461
10.0 g of the 2-ethyl-thiazolidine-2-carboxylic acid thus obtained was dissolved in 200 ml of 20% hydrogen chloride-methanol solution. After being refluxed for 30 minutes, the reaction mixture was concentrated under reduced pressure to afford a residue, to which was added water, and was then neutralized with an aqueous saturated solution of sodium bicarbonate. Upon extracting with ethyl acetate, the extract was chromatographed on a column of silica gel to give 2.0 g (yield 18.4%) of 2-ethyl-thiazolidine-2-carboxylic acid methyl ester with a reflex index of nD26 1.501.

reactant | 2-ethyl-thiazolidine-2-carboxylic acid | 10.0 g | C(C)C1(SCCN1)C(=O)O | C6H11NO2S
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrogen chloride methanol | 200 ml | Cl.CO
product | 2-ethyl-thiazolidine-2-carboxylic acid methyl ester | 2.0 g, yield 18.4% | COC(=O)C1(SCCN1)CC | C7H13NO2S
